US08039098B2
A coating solution was prepared by thoroughly mixing 300 parts by mass of a UV-cure resin, PETA (trade name, a mixture of pentaerythritol acrylate and pentaerythritol tetraacrylate, produced by Nippon Kayaku Co., Ltd.), 13.2 parts by mass of a light cure initiator, Irgacure 184 (produced by Ciba Specialty Chemicals), 52.3 parts by mass of cross-linked acrylic-styrene particles as first translucent fine particles (produced by Soken Chemical & Engineering Co., Ltd., average particle size 3.5 μm, refractive index 1.55, 30% toluene dispersion), 155.0 parts by mass of cross-linked polystyrene particles as second translucent fine particles (produced by Soken Chemical & Engineering Co., Ltd., average particle size 3.5 μm, refractive index 1.60, 30% toluene dispersion, used after 20 minutes' dispersion at 10,000 rpm by means of a Polytron dispersing machine), 1.13 parts by mass of a fluoropolymer according to the invention (P-3, 40 mass % cyclohexanone solution), 60.0 parts by mass of an organosilane compound, KBM-5103 (trade name, produced by Shin-Etsu Chemical Co., Ltd.), 143.0 parts by mass of cyclohexanone and 240.0 parts by mass of toluene.

reactant | pentaerythritol acrylate | C(C=C)(=O)OCC(CO)(CO)CO | C8H14O5
reactant | pentaerythritol tetraacrylate | C(C=C)(=O)OCC(COC(C=C)=O)(COC(C=C)=O)COC(C=C)=O | C17H20O8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Irgacure 184 | C1CCC(CC1)(C(=O)C2=CC=CC=C2)O | C13H16O2
